US05532367
A mixture of 7.6 grams (0.025 mole) of 3,7-dibromo-2,3-dihydro-2,2-dimethylbenzofuran and 11.3 grams (0.115 mole) of powdered potassium acetate in 125 mL of dry N,N-dimethylformamide is stirred at ambient temperature for about 24 hours. After this time, the reaction mixture is concentrated under reduced pressure to a residue. The residue is poured into about 350 mL of water and the mixture is extracted with diethyl ether. The ether extract is concentrated under reduced pressure, yielding 3-acetoxy-7-bromo-2,3-dihydro-2,2-dimethylbenzofuran.

reactant | 3,7-dibromo-2,3-dihydro-2,2-dimethylbenzofuran | 0.025 mole, 7.6 grams | BrC1C(OC2=C1C=CC=C2Br)(C)C | C10H10Br2O
reactant | potassium acetate | 0.115 mole, 11.3 grams | C(C)(=O)[O-].[K+]
solvent | N,N-dimethylformamide | 125 mL | CN(C=O)C | C3H7NO
product | 3-acetoxy-7-bromo-2,3-dihydro-2,2-dimethylbenzofuran | C(C)(=O)OC1C(OC2=C1C=CC=C2Br)(C)C | C12H13BrO3
